US05322954
Dimethyl-4-fluorophthalate
Dimethyl 5-bromo-4-fluoro-3,4,5,6-tetrahydrophthalate was dissolved in methylene chloride and stirred over basic alumina for 4 hours. An aliquot was removed and the major product shown to be dimethyl 4-fluorophthalate by GC analysis.

reactant | Dimethyl 5-bromo-4-fluoro-3,4,5,6-tetrahydrophthalate | BrC1C(CC(=C(C(=O)OC)C1)C(=O)OC)F | C10H12BrFO4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Dimethyl-4-fluorophthalate | COC(C=1C(C(=O)OC)=CC(=CC1)F)=O | C10H9FO4
